.title Inverter chain with pyplot

.tran 10n 1000n
XU30 out1 Vin Vcc 0 inv
XU32 out2 out1 Vcc 0 inv
XU33 out3 out2 Vcc 0 inv

.subckt inv out in vcc gnd
M1 out in gnd gnd N1
M2 out in vcc vcc N2
C1 out gnd 0.1p
.model N1 NMOS level=8 version=3.3.0
.model n2 PMOS level=8 version=3.3.0
.ends


VDC1 Vcc 0 DC 5
Vin1 Vin 0 pulse 0 5 0 10n 10n 240n 500n

.option noinit

.control
run
pyplot py1 Vin out1+6 out2+12 out3+18 title 'no. 1'
set pyplot_subplots=1
pyplot py2 Vin out1 out2 out3 title 'no. 2'

unset pyplot_subplots
pyplot Vin out1+6 out2+12 out3+18 title 'no. 3'
set pyplot_subplots=2
pyplot Vin out1 out2 out3 title 'no. 4'
quit
.endc
.end
