lc oscillator
L1 a 0 1e-06
C1 a 0 1e-09
R1 a 0 100k
B1 a 0 i = -(5e-4*v(a)) + 5e-4*v(a)*v(a)*v(a)
.ic v(a)=0.1
.control
option noacct
set numdgt=17
tran 1n 100u uic
plot a
let amp = (maximum(v(a))-minimum(v(a)))/2
print amp
hbosc a 5 5e6 100u
.endc
.end
